US07348017B2
Methyl 2-{4-[(4-fluorobenzyl)oxy]phenyl}-2-[(2-methoxyethoxy)methoxy]acetate (0.421 g, 1.11 mmol) was dissolved in a mixture of methanol (6 ml) and tetrahydrofuran (6 ml), and 1N sodium hydroxide (3 ml) was added thereto. After being stirred for 1 hour at room temperature, the reaction mixture was neutralized and then extracted with ethyl acetate. The organic layer dried over MgSO4, and then the solvent was evaporated out. The obtained residue was purified by silica gel column chromatography (50% ethyl acetate/hexane), to give 2-{4-[(4-fluorobenzyl)oxy]phenyl}-2-[(2-methoxyethoxy)methoxy]acetic acid (0.156 g, 39%).

reactant | Methyl 2-{4-[(4-fluorobenzyl)oxy]phenyl}-2-[(2-methoxyethoxy)methoxy]acetate | 1.11 mmol, 0.421 g | FC1=CC=C(COC2=CC=C(C=C2)C(C(=O)OC)OCOCCOC)C=C1 | C20H23FO6
solvent | methanol | 6 ml | CO | CH4O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1N, 3 ml | [OH-].[Na+]
product | 2-{4-[(4-fluorobenzyl)oxy]phenyl}-2-[(2-methoxyethoxy)methoxy]acetic acid | 0.156 g, 39% | FC1=CC=C(COC2=CC=C(C=C2)C(C(=O)O)OCOCCOC)C=C1 | C19H21FO6
